US09023849B2
1-(2,3-Difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidohydrazide
Under an argon atmosphere, 440 mg (1.237 mmol, purity 85%) of 1-(2,3-difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidamide were initially charged in 6 ml of ethanol and cooled to 0° C. 500 mg (4.49 mmol) of triethylamine and 85 mg (1.361 mmol) of 80% hydrazine hydrate were added, and the mixture was stirred at room temperature for 72 h. The mixture was concentrated on a rotary evaporator, taken up in ethyl acetate and washed three times with saturated aqueous sodium chloride solution. The organic phase was dried over sodium sulphate, concentrated on a rotary evaporator and dried under high vacuum. 421 mg (purity 84%, 90% of theory) of the target compound were obtained.

reactant | 1-(2,3-difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidamide | 1.237 mmol, 440 mg | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C(N)=N)C=CC=C1F | C14H12F2N6
reactant | triethylamine | 4.49 mmol, 500 mg | C(C)N(CC)CC | C6H15N
reactant | hydrazine hydrate | 1.361 mmol, 85 mg | O.NN
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 1-(2,3-Difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidohydrazide | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C(NN)=N)C=CC=C1F | C14H13F2N7
